US05411867
Principle of Step 1: ONPG substituting for lactose is metabolized with β-galactosidase. At 44.5° C. E. coli grow and utilize ONPG and produce indole. β-galactoside turns the medium yellow. In the yellow colored medium, both fecal coliforms and E. coli are present. In samples which do not have a yellow color, there are no fecal coliforms and E. coli.

reactant | ONPG | C1=CC=C(C(=C1)[N+](=O)[O-])O[C@H]2[C@@H]([C@H]([C@H]([C@H](O2)CO)O)O)O | C12H15NO8
reactant | lactose | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
product | indole | N1C=CC2=CC=CC=C12 | C8H7N
